US06897231B2
A. 4-(5-(1H-1,2,4-triazol-5-yl)-1H-indazol-3-yl)phenol
A mixture of 3-(4-hydroxyphenyl)-1H-indazole-5-carboxamide (100 mg, 0.425 mmol) and N,N-dimethylformamide dimethyl acetal (10.0 mL, 75.3 mmol, 177 equiv.) was heated at 90° C. for 3 h. The reaction mixture was separated from some dark residue via pipet and concentrated. To the concentrate was added 20 mL of glacial acetic acid (AcOH), and anhydrous hydrazine (357 mg, 11.1 mmol, 26.1 equiv.). The mixture was heated at 90° C. for 2 h. Water (50 mL) was added to the mixture, and the acetic acid was removed on a rotary evaporator. The remaining mixture was extracted with EtOAc. The combined organics were dried (Na2SO4) and purified by prep HPLC to afford the title compound (11.4 mg, 9.7% yield): 1H NMR (DMSO-d6) δ 13.25 (br s, 1H), 9.70 (br, 2H), 8.64 (s, 1H), 8.42 (br s, 1H) 8.05 (d, 1H), 7.83 (d, 2H), 7.65 (d, 1H), 6.95 (d, 2H); ES-MS (m/z) 278 [M+1]+.

reactant | 3-(4-hydroxyphenyl)-1H-indazole-5-carboxamide | 0.425 mmol, 100 mg | OC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)N | C14H11N3O2
reactant | N,N-dimethylformamide dimethyl acetal | 75.3 mmol, 10.0 mL, 177 equiv. | COC(N(C)C)OC | C5H13NO2
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine | 11.1 mmol, 357 mg, 26.1 equiv. | NN | H4N2
solvent | Water | 50 mL | O | H2O
product | 4-(5-(1H-1,2,4-triazol-5-yl)-1H-indazol-3-yl)phenol | 11.4 mg, 9.7% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)O | C15H11N5O
